US04675186
(4-Dimethylaminophenyl)glyoxal monohydrate (3.5 g., 0.018 mol), prepared according to Preparation 22 below, was dissolved in 150 ml. benzene and refluxed for 18 hours (employing a Dean-Stark trap to remove water), stripped to solids, taken up in 50 ml. dry THF, further dried over molecular sieves, and filtered to yield anhydrous (4-dimethylaminophenyl)glyoxal, 0.18 mol, in 50 ml. THF. The latter was reacted with allyl 6,6-dibromopenicillanate (7.82 g., 0.019 mol) and methylmagnesium bromide according to the method of Example A2 to yield chromatographed title product as mixture of diastereoisomers (R and S in the sidechain, unspecified at the 6-position), oil, 2.15 g.,; 1H-nmr 1.42 and 1.50 (2s, 3H), 1.63 (s, 3H), 3.11 (s, 6H), 4.05 (m, 1H), 4.40 and 4.60 (2s, 1H), 4.72 (m, 2H), 5.50 (m, 3H), 5.87 (s, 1H), 5.95 (m, 1H), 6.70 (m, 2H), 7.95 (m, 2H).

reactant | (4-Dimethylaminophenyl)glyoxal monohydrate | 0.018 mol, 3.5 g | O.CN(C1=CC=C(C=C1)C(=O)C=O)C
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (4-dimethylaminophenyl)glyoxal | CN(C1=CC=C(C=C1)C(=O)C=O)C | C10H11NO2
